US08748418B2
Under argon in a sealed tube was added to a solution of (S)-5-(5-bromo-2-fluoro-phenyl)-5,7,7-trimethyl-[1,4]oxazepan-3-one (intermediate A16A) (1.0 g, 3.0 mmol) in toluene (20 ml), sodium tert-butoxide (NaOBut) (865 mg, 9.0 mmol), 2-di-tert-butylphosphino-2′,4′,6′-triisopropylbiphenyl (t-Bu X-phos) (127 mg, 10 mol %) and tris(dibenzylideneacetone)dipalladium chloroform complex (Pd2(dba)3.CHCl3) (93 mg, 3 mol %) followed by benzophenone imine (1.07 mL, 6.0 mmol). The tube was sealed under argon and the mixture was stirred at 105° C. for 18 h to 2.5 days. The mixture was cooled to 23° C., poured into water, extracted with ethyl acetate, and the organic layer was washed with brine and dried over sodium sulphate. Removal of the solvent in vacuum left a brown oil, which was purified by silica gel column chromatography with n-heptane/ethyl acetate to give the (S)-5-[5-(benzhydrylidene-amino)-2-fluoro-phenyl]-5,7,7-trimethyl-[1,4]oxazepan-3-one (1.15 g, 88%) as light yellow foam. MS (ISP): m/z=431.3 [(M+H)+].

reactant | (S)-5-(5-bromo-2-fluoro-phenyl)-5,7,7-trimethyl-[1,4]oxazepan-3-one | 3.0 mmol, 1.0 g | BrC=1C=CC(=C(C1)[C@]1(NC(COC(C1)(C)C)=O)C)F | C14H17BrFNO2
reactant | sodium tert-butoxide | 9.0 mmol, 865 mg | CC(C)([O-])C.[Na+]
reactant | 2-di-tert-butylphosphino-2′,4′,6′-triisopropylbiphenyl | 127 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C(C)(C)C | C29H45P
reactant | benzophenone imine | 6.0 mmol, 1.07 mL | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium chloroform | 93 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd].C(Cl)(Cl)Cl
solvent | water | O | H2O
product | (S)-5-[5-(benzhydrylidene-amino)-2-fluoro-phenyl]-5,7,7-trimethyl-[1,4]oxazepan-3-one | 1.15 g, 88% | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NC=1C=CC(=C(C1)[C@]1(NC(COC(C1)(C)C)=O)C)F | C27H27FN2O2
